US04508594
The round bottom flask was suspended in a dry ice-isopropanol bath. When the contents reached 0° C., the acryloylchloride solution was allowed to slowly drip into the flask. Temperature was maintained at 0° to 3° C. over a 40 minute period during which all the acryloylchloride solution had been added. Voluminous white crystals of aminoacetaldehyde dimethylacetal hydrochloride were present in the product. These crystals were removed via filtration. Methoxyhydroquinone (0.1 gram) was added and the filtrate was concentrated by evaporation of the ethyl ether to yield 189 grams of N-(2,2 dimethoxyethyl)acrylamide (92% yield).

reactant | acryloylchloride | C(C=C)(=O)Cl | C3H3ClO
reactant | aminoacetaldehyde dimethylacetal hydrochloride | Cl.COC(CN)OC
product | N-(2,2 dimethoxyethyl)acrylamide | 189 grams, 92% yield | COC(CNC(C=C)=O)OC | C7H13NO3
